US08389769B2
30 g (0.13 mol) 2-hydroxythioxanthen-9-one was suspended in 350 mL acetone. 61.6 g (0.39 mol) 1-bromo-3-chloro-propane and 62.8 g (0.46 mol) potassium carbonate were added. The mixture was refluxed for 6 hours. The mixture was allowed to cool down to room temperature. The precipitated salts were removed by filtration and the solvent was evaporated under reduced pressure. The residue was suspended in a mixture of 300 mL ethyl acetate and 200 mL water. The precipitated residue was isolated by filtration and redissolved in a mixture of 100 mL methylene chloride and 50 mL water. Both the ethyl acetate fraction and methylene chloride fraction were isolated, pooled and dried over MgSO4. The solvent was removed under reduced pressure and 2-(3-chloropropoxy)-9H-thioxanthen-9-one was purified by preparative column chromatography on a Merck SVP D40 column, using a gradient elution from methylene chloride/hexane 30/70 to methylene chloride/hexane 50/50 at a flow rate of 40 mL per minute. 26.5 g of 2-(3-chloropropoxy)-9H-thioxanthen-9-one was isolated.

reactant | 2-hydroxythioxanthen-9-one | 0.13 mol, 30 g | OC1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | C13H8O2S
reactant | 1-bromo-3-chloro-propane | 0.39 mol, 61.6 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 0.46 mol, 62.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | 350 mL | CC(=O)C | C3H6O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 2-(3-chloropropoxy)-9H-thioxanthen-9-one | 26.5 g | ClCCCOC1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | C16H13ClO2S
